US04211783
Preparation of 4-(4-methoxyphenyl)-1-butanol
A flask containing 250 ml. 1 M diborane in tetrahydrofuran is thoroughly cooled in an ice-water bath. To the stirred solution is slowly added 38.8 g. of 4-(4-methoxyphenyl)butyric cid in 100 ml. tetrahydrofuran. After addition is completed the reaction is stirred for 16 hours at room temperature, then poured slowly into 1 l. stirred ice-water. The aqueous solution is extracted three times with 300 ml. portions of ether. The combined organic extracts are washed with water and brine, dried, and evaporated to a nearly colorless oil of 4-(4-methylphenyl)-1-butanol.

reactant | diborane | 1 M | B#B | B2
reactant | 4-(4-methoxyphenyl)butyric cid | COC1=CC=C(C=C1)CCCC(=O)O | C11H14O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(4-methoxyphenyl)-1-butanol | COC1=CC=C(C=C1)CCCCO | C11H16O2
